US07262185B2
An aqueous solution (20 ml) of (2-(4-nitrophenyl)-1-(1-propylimidazol-2-yl)ethanone (1.2 g), reduced iron (1.2 g) and anhydrous calcium chloride (244 mg) in 85% ethanol was stirred for 4 hours under nitrogen atmosphere at 105° C. The mixture was allowed to be at room temperature, ethyl acetate was added to the mixture, the insolubles were filtered off, and water was added to separate the layers. The organic layer was washed with saturated brine, and dried over magnesium sulfate. The solvent was distilled off under reduced pressure and the obtained residue was purified by silica gel column chromatography (hexane:ethyl acetate=0.4:1) to give 2-(4-aminophenyl)-1-(1-propylimidazol-2-yl)ethanone (863 mg) as red oil.

reactant | 2-(4-nitrophenyl)-1-(1-propylimidazol-2-yl)ethanone | 1.2 g | [N+](=O)([O-])C1=CC=C(C=C1)CC(=O)C=1N(C=CN1)CCC | C14H15N3O3
reactant | calcium chloride | 244 mg | [Cl-].[Ca+2].[Cl-]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethanol | C(C)O | C2H6O
product | 2-(4-aminophenyl)-1-(1-propylimidazol-2-yl)ethanone | 863 mg | NC1=CC=C(C=C1)CC(=O)C=1N(C=CN1)CCC | C14H17N3O
